US07700641B2
Synthesis of N-[2-(2′-oxospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-1′(2′H)-yl)ethyl]-2-(trifluoromethoxy)benzamide
Following the procedure as described in EXAMPLE 17, and making non-critical variations using 1′-(2-aminoethyl)spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one to replace 1′-(3-aminopropyl)spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one, and 2-(trifluoromethoxy)benzoyl chloride to replace 3-chlorothiophene-2-carbonyl chloride, the title compound was obtained (91%) as a colorless solid: mp 183-184° C.; 1H NMR (300 MHz, CDCl3) δ 7.86-7.83 (m, 1H), 7.50-7.45 (m, 1H), 7.37-7.27 (m, 3H), 7.16-7.11 (m, 2H), 7.07-7.02 (m, 1H), 6.84 (t, 1H), 6.47 (s, 1H), 6.10 (s, 1H), 5.82 (dd, 2H), 4.87 (d, 1H), 4.64 (d, 1H), 4.10-3.94 (m, 2H), 3.90-3.68 (m, 2H); 13C NMR (75 MHz, CDCl3) δ 178.2, 165.0, 155.9, 148.8, 145.9, 142.3, 141.9, 132.4, 132.1, 131.3, 129.2, 127.6, 127.3, 124.0, 123.6, 121.2, 121.1, 119.2, 108.7, 103.0, 101.4, 93.6, 80.4, 58.2, 39.5, 38.2; MS (ES+) m/z 513.4 (M+1).

reactant | 1′-(2-aminoethyl)spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | NCCN1C(C2(C3=CC=CC=C13)COC=1C2=CC2=C(OCO2)C1)=O | C18H16N2O4
reactant | 1′-(3-aminopropyl)spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | NCCCN1C(C2(C3=CC=CC=C13)COC=1C2=CC2=C(OCO2)C1)=O | C19H18N2O4
reactant | 2-(trifluoromethoxy)benzoyl chloride | FC(OC1=C(C(=O)Cl)C=CC=C1)(F)F | C8H4ClF3O2
reactant | 3-chlorothiophene-2-carbonyl chloride | ClC1=C(SC=C1)C(=O)Cl | C5H2Cl2OS
product | N-[2-(2′-oxospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-1′(2′H)-yl)ethyl]-2-(trifluoromethoxy)benzamide | O=C1N(C2=CC=CC=C2C12COC=1C2=CC2=C(OCO2)C1)CCNC(C1=C(C=CC=C1)OC(F)(F)F)=O | C26H19F3N2O6
